US08614322B2
A solution of 2-bromobenzo[h]quinoline (1.52 g, 5.89 mmol) in THF (36 ml) was cooled to −78° C. After 10 minutes a solution of 2.5 M n-butyllithium in n-hexane (2.47 ml, 6.18 mmol) was added. The resulting dark red solution was again stirred at −78° C. for 1 hour after which N,N-dimethylacetamide (0.60 ml, 6.45 mmol) was added drop-wise. The solution was stirred for 1 h at −78° C. and allowed to warm slowly to ambient temperature. A solution of 1 M HCl (7.4 ml, 7.4 mmol) was then added, the organic phase was separated and the aqueous phase was extracted with Et2O (2×15 ml). The organic phases were combined, dried over anhydrous Na2SO4 and the solvent evaporated under reduced pressure. The residue was purified by flash chromatography (petroleum ether/acetate=95/5) to give 1.00 g (77% yield) of 1-(benzo[h]quinolin-2-yl)ethanone in the form of a yellow solid: mp 113-115° C.

reactant | 2-bromobenzo[h]quinoline | 5.89 mmol, 1.52 g | BrC1=NC2=C3C(=CC=C2C=C1)C=CC=C3 | C13H8BrN
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | n-hexane | 6.18 mmol, 2.47 ml | CCCCCC | C6H14
reactant | N,N-dimethylacetamide | 6.45 mmol, 0.60 ml | CN(C(C)=O)C | C4H9NO
reactant | HCl | 7.4 mmol, 1 M, 7.4 ml | Cl | ClH
solvent | THF | 36 ml | C1CCOC1 | C4H8O
product | 1-(benzo[h]quinolin-2-yl)ethanone | 1.00 g, 77% yield | N1=C(C=CC2=CC=C3C(=C12)C=CC=C3)C(C)=O | C15H11NO
